US07655802B2
4-Amino-7-methoxy-2-(2-methyl-(1,3-dioxolan-2-yl))-benzofuran
To a suspension of 10% Pd on activated carbon (200 mg) in ethanol (100 mL), under N2 protection, was added 7-methoxy-2-(2-methyl-(1,3-dioxolan-2-yl))-4-nitrobenzofuran (6.50 g, 23 mmol). The reaction mixture was degassed under vacuum three times. The reaction mixture was stirred vigorously while hydrogen gas was allowed to flow over the reaction mixture. After 4 h the reaction was complete by TLC (5:1 hex:EA). The reaction mixture was filtered through a pad of celite and the celite was rinsed with additional ethanol. The solvent was removed in-vacuo to obtain 5.1 g (88% yield) of the title compound as a yellow oil.

reactant | 7-methoxy-2-(2-methyl-(1,3-dioxolan-2-yl))-4-nitrobenzofuran | 23 mmol, 6.50 g | COC1=CC=C(C=2C=C(OC21)C2(OCCO2)C)[N+](=O)[O-] | C13H13NO6
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd on activated carbon | 200 mg | [Pd] | Pd
product | 4-Amino-7-methoxy-2-(2-methyl-(1,3-dioxolan-2-yl))-benzofuran | 5.1 g, 88% yield | NC1=CC=C(C2=C1C=C(O2)C2(OCCO2)C)OC | C13H15NO4
